US08193349B2
To a solution of sodium methoxide (71.3 mg, 1.32 mmol) in anhydrous MeOH (4 ml), tetrahydro-pyran-2-one (1.32 g, 13.2 mmol) is added dropwise at room temperature under nitrogen. The mixture is stirred at 50° C. for 4 hours and filtered through a silica gel short column (eluent: diethyl ether). Collected filtrate is concentrated under reduced pressure to give 5-hydroxy-pentanoic acid methyl ester; 1H NMR (400 MHz, chloroform-d) ppm 1.57-1.76 (m, 4H), 2.35 (m, 2H), 3.65 (m, 5H).

reactant | sodium methoxide | 1.32 mmol, 71.3 mg | C[O-].[Na+]
reactant | tetrahydro-pyran-2-one | 13.2 mmol, 1.32 g | O1C(CCCC1)=O | C5H8O2
solvent | MeOH | 4 ml | CO | CH4O
product | 5-hydroxy-pentanoic acid methyl ester | COC(CCCCO)=O | C6H12O3
